US09255096B1
8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine
A 2 L three-necked, round-bottomed flask, was equipped with a magnetic stirrer and stir bar, condenser, heating bath, thermocouple and nitrogen inlet. A stirred solution of 3-benzoyl-8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine (25.9 g, 74.4 mmol) and LiOH.H2O (34.4 g, 819 mmol) in methanol (800 mL) and water (55 mL) was heated at gentle reflux (internal temperature 62-66° C.) for 20 hours. Solvents were removed under reduced pressure and the residue was stirred in a mixture of methanol (180 mL) and dichloromethane (3 L) overnight. The batch was washed with saturated aqueous sodium chloride (0.5 L) diluted with water (0.4 L), and the separated organic layer was dried over anhydrous sodium sulfate (100 g). Removal of the drying agent by filtration and evaporation of solvent in vacuo gave a crude dark brown solid (12.1 g). The crude product was stirred in refluxing isopropanol (35 mL) for 1 hour, cooled to 22° C., and collected on a fritted glass funnel to afford the title compound as a grey solid (10.6 g, 58% yield).

reactant | 3-benzoyl-8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine | 74.4 mmol, 25.9 g | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(N=CC2C1)C=C(C(=C3)OC)OC | C21H20N2O3
reactant | LiOH.H2O | 819 mmol, 34.4 g | O[Li].O
reactant | isopropanol | 35 mL | C(C)(C)O | C3H8O
solvent | methanol | 800 mL | CO | CH4O
solvent | water | 55 mL | O | H2O
product | 8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine | 10.6 g, 58% yield | COC=1C(=CC2=C(N=CC=3CNCCC23)C1)OC | C14H16N2O2
